US04393059
A mixture of 7-[2-(2-formamidothiazol-4-yl)-2-butoxyiminoacetamido]-3-methoxy-3-cephem-4-carboxylic acid (syn isomer, 0.9 g.), conc. hydrochloric acid (0.8 ml.) and methanol (13.5 ml.) was treated in a similar manner to that of Example 15-(3) to give 7-[2-(2-aminothiazol-4-yl)-2-butoxyiminoacetamido]-3-methoxy-3-cephem-4-carboxylic acid (syn isomer, 0.4 g.), yellowish white powder.

reactant | 7-[2-(2-formamidothiazol-4-yl)-2-butoxyiminoacetamido]-3-methoxy-3-cephem-4-carboxylic acid | 0.9 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)OC)C(=O)O)C1=O)=NOCCCC | C18H21N5O7S2
reactant | hydrochloric acid | 0.8 ml | Cl | ClH
solvent | methanol | 13.5 ml | CO | CH4O
product | 7-[2-(2-aminothiazol-4-yl)-2-butoxyiminoacetamido]-3-methoxy-3-cephem-4-carboxylic acid | 0.4 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)OC)C(=O)O)C1=O)=NOCCCC | C17H21N5O6S2
